US09227970B2
b) (2-Dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-carbamic acid tert-butyl ester
Using (6-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-dimethyl-amine, this compound was prepared following the same method as for the synthesis of (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-carbamic acid tert-butyl ester. Reddish yellow solid (250 mg, 33%). MS: m/z=278 (M+H+).

reactant | (6-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-dimethyl-amine | BrC=1C=CC=2N(C1)N=C(N2)N(C)C | C8H9BrN4
reactant | (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O | C15H21N5O3
product | (2-Dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=CC=2N(C1)N=C(N2)N(C)C)=O | C13H19N5O2
